US07582769B2
2-{2-[3-Cyclohexyl-3-(trans-4-methoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-2-methyl-propionic acid
Prepared in an similar manner to {2-[3-cyclohexyl-3-(trans-4-methoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid via cyclohexyl-(trans-4-methoxymethyl-cycloheptyl)-amine and 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-propionic acid ethyl ester to give the title compound.

reactant | {2-[3-cyclohexyl-3-(trans-4-methoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)COC | C20H31N3O4S2
reactant | cyclohexyl-(trans-4-methoxymethyl-cycloheptyl)-amine | C1(CCCCC1)N[C@@H]1CC[C@H](CCC1)COC | C15H29NO
reactant | 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)SC1=CN=C(S1)N)=O | C9H14N2O2S2
product | 2-{2-[3-Cyclohexyl-3-(trans-4-methoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-2-methyl-propionic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SC(C(=O)O)(C)C)=O)[C@@H]1CC[C@H](CC1)COC | C22H35N3O4S2
